.title KiCad schematic
.include "/Users/manindersingh/Documents/ngspice/learnings/Converters/buck_converter/edt01.sub"
.model __D1 D
XxPWM1 Net-_V2-Pad1_ /PWM_o PWMtri
V1 /A 0 DC 12 
C1 /C 0 100u
R1 /C 0 100
XxSW1 /A /B /PWM_o power_sw
V2 Net-_V2-Pad1_ 0 DC 0.5 
D1 0 /B __D1
L1 /B /C 10m
.end