.title KiCad schematic
.include "/Users/manindersingh/Documents/ngspice/learnings/rectifier/3Phase/rectifier.sub"
XD6 Net-_D5-A_ 0 diode_power
XD4 Net-_D2-A_ 0 diode_power
XD5 /_NO_NET_ Net-_D5-A_ diode_power
Cf1 /L2- 0 1000u
R1 /L2- 0 25
XD2 /_NO_NET_ Net-_D2-A_ diode_power
L2 /_NO_NET_ /L2- 0.1u
Rs1 /La- /Rs- 0.5
Rs2 /Lb- Net-_D2-A_ 0.5
L3 /b /Lb- 0.01u
Vin2 /b /n dc=0 ampl=325 f=50 ac=1 tb = -13.33ms
L4 /c /Lc- 0.01u
Vin3 /c /n DC 0 SIN( 0 325 50 -6.66ms 0 0 ) AC 1  
XD1 /Rs- /_NO_NET_ diode_power
Vin1 /a /n DC 0 SIN( 0 325 50 0 0 0 ) AC 1  
L1 /a /La- 0.01u
XD3 /Rs- 0 diode_power
Rs3 /Lc- Net-_D5-A_ 0.5
.end
